US03976695
Following the procedures outlined in Example 1, the 2-chloro-3,4-dibenzyloxystyrene oxide is reacted with cyclopentylamine to give 2-chloro-α-(cyclopentylaminomethyl)-3,4-dibenzyloxybenzyl alcohol hydrochloride, m.p. 181°-182°C. Similar hydrogenation over palladium-on-carbon gives 2-chloro-α-(cyclopentylaminomethyl)-3,4-dihydroxybenzyl alcohol as an amorphous solid.

reactant | 2-chloro-3,4-dibenzyloxystyrene oxide | ClC1=C(C2CO2)C=CC(=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H19ClO3
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | 2-chloro-α-(cyclopentylaminomethyl)-3,4-dibenzyloxybenzyl alcohol hydrochloride | Cl.ClC1=C(C(CNC2CCCC2)O)C=CC(=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C27H30ClNO3.ClH/c28-26-23(24(30)17-29-22-13-7-8-14-22)15-16-25(31-18-20-9-3-1-4-10-20)27(26)32-19-21-11-5-2-6-12-21;/h1-6,9-12,15-16,22,24,29-30H,7-8,13-14,17-19H2;1H
